data/oMe_Silver.jsonl
{"reaction_id": "NR-245_1-c1ccccc1_2-c1ccc2ccccc2c1","level": "medium","name": "Swern Oxidation","reactants_smiles": ["C(O)(c1ccccc1)(c1ccc2ccccc2c1)","CS(C)=O","O=C(Cl)C(=O)Cl","CCN(CC)CC"],"products_smiles": ["C(=O)(c1ccccc1)(c1ccc2ccccc2c1)"],"conditions": "Low temperature (-78 °C)","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C[S+](C)OC([O-])(Cl)C(=O)Cl","step_weight": 0,"rationale": "DMSO oxygen attacks electrophilic carbonyl of oxalyl chloride due to strong polarization, forming a chlorosulfonium intermediate stabilized by resonance with sulfur."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C[S+](C)OC(=O)C(=O)Cl","step_weight": 0,"rationale": "Chloride leaves as CO2 is expelled, driven by formation of stable gaseous products and relief of electron density on sulfur."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C[S+](C)Cl","step_weight": 0,"rationale": "Further elimination of CO gas occurs, favored by thermodynamic stability of gaseous products and increased electrophilicity of the sulfonium species."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccccc1)(c1ccc2ccccc2c1)O[S](Cl)(C)C","step_weight": 0,"rationale": "Alcohol oxygen attacks the highly electrophilic sulfonium center, facilitated by low temperature preventing side reactions and by good leaving group potential of chloride."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(c1ccc2ccccc2c1)O[S](=C)C","step_weight": 0,"rationale": "Base-induced elimination removes a proton adjacent to oxygen, forming an alkoxysulfonium ylide stabilized by adjacent heteroatoms."},{"step": 6,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)(c1ccccc1)(c1ccc2ccccc2c1)","step_weight": 0,"rationale": "The ylide undergoes a [2,3]-sigmatropic rearrangement, driven by relief of charge separation and formation of the stable carbonyl product."}],"description": "In the Swern oxidation, DMSO is activated by oxalyl chloride at low temperature to form an electrophilic sulfonium species. The alcohol attacks this intermediate, leading to an alkoxysulfonium salt. Subsequent elimination and rearrangement steps yield the aldehyde or ketone product under mild, non-aqueous conditions, avoiding overoxidation."}
{"reaction_id": "NR-134_1-c1ccccc1_2-CC","name": "Lombardo Methylenation","level": "medium","reactants_smiles": ["C(=O)(c1ccccc1)(CC)","C(Br)Br","[Zn]","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C)(c1ccccc1)(CC)"],"conditions": "CH2Br2, Zn, TiCl4","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "BrC[Zn]Br","rationale": "Zn inserts into the C–Br bond of CH2Br2 via oxidative addition due to the polarizable C–Br bond and Zn’s reducing ability, forming an organozinc intermediate."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "Br[Zn]C[Zn]Br","rationale": "A second oxidative addition to CH2Br2 occurs because Zn can further activate the methylene carbon, producing a geminal bis(zinc) species with enhanced nucleophilicity."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "Br[Zn]C[Ti](Cl)(Cl)Cl","rationale": "The organozinc transfers the methylene fragment to TiCl4 via electrophilic substitution, favored by Ti’s strong Lewis acidity and the good leaving ability of Zn–Br."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O[Ti](Cl)(Cl)Cl)(c1ccccc1)(CC)C[Zn]Br","rationale": "The titanium–carbene species adds nucleophilically to the carbonyl carbon, driven by the electrophilicity of the carbonyl and stabilization of the alkoxide by Ti coordination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C)(c1ccccc1)(CC)","rationale": "Elimination occurs as the alkoxide–Ti complex collapses, expelling Ti–O and forming the C=C bond, driven by the thermodynamic stability of the alkene."}],"description": "In the Lombardo methylenation, Zn activates CH2Br2 to form a zinc carbenoid, which is then transferred to TiCl4 to generate a titanium–carbene species. This electrophilic carbene adds to the carbonyl, and elimination yields the alkene."}
